US08211820B2
Preparation of 3,4-difluoro-4′-methoxybiphenyl
A THF solution of ethylmagnesium bromide (0.55 mL, 1.08 M, 0.60 mmol) was added to CoF2.4H2O (17.0 mg, 0.10 mmol) and 1,3-bis(2,6-diisopropylphenyl)imidazolinium chloride (85.4 mg, 0.20 mmol) at 0° C. under argon atmosphere. The following process was also performed under argon atmosphere. After stirring for four hours at room temperature, 4-chloro-1,2-difluorobenzene (297.0 mg, 2.0 mmol) and a THF solution of p-methoxyphenylmagnesium bromide (3.40 mL, 0.88 M, 3.0 mmol) was added to the mixture. The reaction was performed at 60° C. for 12 hours. After cooled to the ambient temperature, 2.0 mL of saturated ammonium chloride aqueous solution was added to the reaction mixture. The water layer was extracted five times using Et2O. The total organic extract was filtrated by Florisil pad (100-200 mesh, Nacalai Tesque, Inc.). After removing the solvent under reduced pressure, the crude product was purified by silica gel chromatography (toluene=5% in hexane), thereby obtaining the above compound, which was a white solid (0.428 g, yield=97%, purity=>98% (GC analysis)).

reactant | ethylmagnesium bromide | 0.60 mmol, 1.08 M, 0.55 mL | C(C)[Mg]Br
reactant | 1,3-bis(2,6-diisopropylphenyl)imidazolinium chloride | 0.20 mmol, 85.4 mg | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[NH+]1CN(CC1)C1=C(C=CC=C1C(C)C)C(C)C
reactant | 4-chloro-1,2-difluorobenzene | 2.0 mmol, 297.0 mg | ClC1=CC(=C(C=C1)F)F | C6H3ClF2
reactant | p-methoxyphenylmagnesium bromide | 3.0 mmol, 0.88 M, 3.40 mL | COC1=CC=C(C=C1)[Mg]Br
reactant | ammonium chloride | 2.0 mL | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
product | 3,4-difluoro-4′-methoxybiphenyl | yield=97% | FC=1C=C(C=CC1F)C1=CC=C(C=C1)OC | C13H10F2O
